US07425568B2
2-(2,4-Difluorophenyl)chroman-4,6-diol was prepared as described for 2-phenylchroman-4,6-diol in Example 8(a) starting from 1,47 g of 2-(2,4-difluorophenyl)-6-hydroxychroman-4-one. 1H NMR (400 MHz, d6-DMSO) δ: 8.86 (s, 1H), 7.61 (m, 1H), 7.28 (m, 1H), 7.14 (m, 1H), 6.88 (d, 1H, J 2.7 Hz), 6.59 (d, 1H, J 8.9 Hz), 6.54 (dd, 1H, J 8.9, 2.7 Hz), 5.46 (s, 1H), 5.32 (dd, 1H, J 11.9, 1.4 Hz), 4.88 (m, 1H), 2.24 (m, 1H), 1.99 (m, 1H).

reactant | 2-phenylchroman-4,6-diol | C1(=CC=CC=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H14O3
reactant | 2-(2,4-difluorophenyl)-6-hydroxychroman-4-one | 1,47 g | FC1=C(C=CC(=C1)F)C1OC2=CC=C(C=C2C(C1)=O)O | C15H10F2O3
product | 2-(2,4-Difluorophenyl)chroman-4,6-diol | FC1=C(C=CC(=C1)F)C1OC2=CC=C(C=C2C(C1)O)O | C15H12F2O3
